US04695639
In 100 ml of methylene chloride was dissolved 35.4 g (0.421 mole) of diketene. The solution was cooled to -30° to -35° C. and 29.5 g (0.415 mole) of chlorine was bubbled into the solution for about an hour to prepare 4-chloroacetoacetyl chloride. The solution was cooled to 40° C. or below and a solution of 50 g (0.324 mole) of phenylthioethanol and 25.6 g (0.324 mole) of pyridine in 52 ml of methylene chloride was added dropwise to the solution at -20° C. or below over a period of about an hour. After completion of addition, the reaction was allowed to proceed at -5° C. for about an hour. To the reaction mixture were added 400 ml of methylene chloride and 700 ml of water to extract the reaction product. The aqueous layer was further extracted with 200 ml of methylene chloride. The organic layers were combined, washed with water and concentrated to dryness under reduced pressure to give 88.5 g of phenylthioethyl 4-chloroacetoacetate as an oil.

reactant | diketene | 0.421 mole, 35.4 g | C=C1CC(=O)O1 | C4H4O2
reactant | chlorine | 0.415 mole, 29.5 g | ClCl | Cl2
reactant | 4-chloroacetoacetyl chloride | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
reactant | phenylthioethanol | 0.324 mole, 50 g | C1(=CC=CC=C1)SC(C)O | C8H10OS
reactant | pyridine | 0.324 mole, 25.6 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 52 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | water | 700 ml | O | H2O
product | phenylthioethyl 4-chloroacetoacetate | 88.5 g | ClCC(CC(=O)OCCSC1=CC=CC=C1)=O | C12H13ClO3S
